Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],3.91946687161
[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2](\[H:3])(=[C:4]\[O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1],2.90142409401
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7])[C:12]([H:13])([H:14])[H:15],2.83118622791
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.75003585195
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.3896885887
[H:1]/[C:2]([O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.12811790272
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.32975743395
[H:10].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.7508144025
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1],3.76975214804
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14],8.26742598
[H:1][C:2][O:3][C:4][C:5]#[C:6][O:7][H:8]>>[C:6][O:7][H:8].[H:1][C:2][O:3][C:4]#[C:5],4.96064954316
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],5.95856873411
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.43092078
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])[C:4]#[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-3.06230517075
[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:7]([H:8])[H:9].[O:5][H:6],4.20133435212
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])=[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.24101407124
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.6239811279799998
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.07594626404
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7].[O:8][H:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9],-0.2996713137489999
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[O:4][C:5][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],7.2049279730299975
[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.81425846363
[C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.80330748198
[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7]1=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.29798868571
[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[H:1][C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-2.76440821476
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],1.11925628746
[O:1]=[C:2]1[C:3][O:4][C:5]1([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],0.2488479328
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.96611160603
